US04790868
Preparation of: 3-carbomethoxymethyl-5-(2-chloro-6-fluoro-4-trifluoromethylphenoxy)benzoxazolone
A mixture of 1.37 grams (0.006 mole) of 3-carbomethoxymethyl-5-hydroxybenzoxazolone, 1.52 grams (0.007 mole) of 3-chloro-4,5-difluorobenzotrifluoride, 1.26 grams (0.009 mole) of potassium carbonate and 25 milliliters of dimethylsulfoxide was stirred in a water bath maintained at 75° C. until HPLC analysis indicated substantially complete consumption of starting material. The mixture was then poured into 100 milliliters of water, cooled in an ice bath and extracted twice with methylene chloride. The organic extracts were further extracted with three portions of water, dried over anhydrous magnesium sulfate and evaporated at reduced pressure. The oily residue was taken up in hexane, solidified, filtered and recrystallized from methanol affording 0.67 gram of material confirmed by NMR analysis as the desired product.

reactant | 3-carbomethoxymethyl-5-hydroxybenzoxazolone | 0.006 mole, 1.37 grams | C(=O)(OC)CN1C(OC2=C1C=C(C=C2)O)=O | C10H9NO5
reactant | 3-chloro-4,5-difluorobenzotrifluoride | 0.007 mole, 1.52 grams | ClC=1C=C(C=C(C1F)F)C(F)(F)F | C7H2ClF5
reactant | potassium carbonate | 0.009 mole, 1.26 grams | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 25 milliliters | CS(=O)C | C2H6OS
product | 3-carbomethoxymethyl-5-(2-chloro-6-fluoro-4-trifluoromethylphenoxy)benzoxazolone | C(=O)(OC)CN1C(OC2=C1C=C(C=C2)OC2=C(C=C(C=C2F)C(F)(F)F)Cl)=O | C17H10ClF4NO5
